US04144047
Preparation of 5-(m-Chlorophenyl)-1,3,4-Oxathiazol-2-One.
m-Chlorobenzamide (75 g. 0.48 mol) and chlorocarbonylsulfenyl chloride (79 g, 0.6 mol, 25% excess) were reacted as described in Example 2 for 1.5 hours. Volatile components were removed under reduced pressure. The dark brown oil was taken up in hot cyclohexane, and the mixture was filtered. Cooling resulted in separation of a dark orange solid. The solid, recrystallized twice from hot ethyl acetate, gave 64.21 g (0.316 mol, 65.8%) of off-white slid, m.p. 83°-84.5°.

reactant | m-Chlorobenzamide | 0.48 mol, 75 g | ClC=1C=C(C(=O)N)C=CC1 | C7H6ClNO
reactant | chlorocarbonylsulfenyl chloride | 0.6 mol, 79 g | ClC(=O)SCl | CCl2OS
product | 5-(m-Chlorophenyl)-1,3,4-Oxathiazol-2-One | ClC=1C=C(C=CC1)C1=NSC(O1)=O | C8H4ClNO2S
